US07435823B2
Step (a) Preparation of N-(3-(dimethylamino)propyl)-N-methyl-2-nitro-4-(trifluoromethyl)benzenamine
To 4-fluoro-3-nitrobenzotrifluoride (1.00 g, 4.78 mmol) in THF (25 mL) was added N1,N1,N3-trimethylpropane-1,3-diamine (0.84 mL, 5.7 mmol) and NaHCO3 (1.1 g, 13 mmol). The resulting mixture was stirred for 1 h at RT, diluted with CH2Cl2, and washed with H2O. The organic layer was dried (MgSO4), filtered and concentrated to afford the title compound.

reactant | 4-fluoro-3-nitrobenzotrifluoride | 4.78 mmol, 1.00 g | FC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
reactant | N1,N1,N3-trimethylpropane-1,3-diamine | 5.7 mmol, 0.84 mL | CN(CCCNC)C | C6H16N2
reactant | NaHCO3 | 13 mmol, 1.1 g | C(=O)(O)[O-].[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(3-(dimethylamino)propyl)-N-methyl-2-nitro-4-(trifluoromethyl)benzenamine | CN(CCCN(C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])C)C | C13H18F3N3O2
